US08614206B2
To a solution of benzyl 4-azido-5-hydroxyazepane-1-carboxylate (1.0 g, 3.45 mmol) in dry DCM (10 ml) was added deoxo-Fluor® (1.6 mL, 8.62 mmol, 50% in THF) and the mixture was stirred at room temperature for 18 hr. Saturated aqueous NaHCO3 solution was added (20 mL) and the mixture was extracted with DCM (100 mL). The organic layer was washed with saturated aqueous NaHCO3 solution (20 mL), separated, dried over MgSO4 and concentrated under reduced pressure. The residue was purified via silica gel column chromatography (20% EtOAc/isohexane) to give benzyl 4-azido-5-fluoroazepane-1-carboxylate as a mixture of syn and anti isomers as a pale yellow oil (0.76 g).

reactant | benzyl 4-azido-5-hydroxyazepane-1-carboxylate | 3.45 mmol, 1.0 g | N(=[N+]=[N-])C1CCN(CCC1O)C(=O)OCC1=CC=CC=C1 | C14H18N4O3
reactant | deoxo-Fluor | COCCN(CCOC)S(F)(F)F | C6H14F3NO2S
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | DCM | 10 ml | C(Cl)Cl | CH2Cl2
solvent | THF | C1CCOC1 | C4H8O
product | benzyl 4-azido-5-fluoroazepane-1-carboxylate | N(=[N+]=[N-])C1CCN(CCC1F)C(=O)OCC1=CC=CC=C1 | C14H17FN4O2
